US04992576
2-(Octyloxy)-5-{[3-(ethoxycarbonyl)phenyl]hydroxymethyl}benzeneacetic acid, ethyl ester
To a solution of 220 mg of 2-(octyloxy)-5-[3-(ethoxycarbonyl)benzoyl]benzeneacetic acid, ethyl ester, in 25 ml of ethanol were added 20 mg of sodium borohydride. After 3 hours of stirring, 5 ml of water and 2 ml of hydrochloric acid were added. After stirring for 15 minutes, additional water was added until the solution turned cloudy. The mixture was poured into ethyl acetate and water. The layers were separated, the organic layer was washed three times with water, and the combined water extracts were back extracted with ethyl acetate. The ethyl acetate extracts were combined, dried over magnesium sulfate, and concentrated to dryness providing 190 mg of the desired title product as a colorless oil. NMR.

reactant | 2-(octyloxy)-5-[3-(ethoxycarbonyl)benzoyl]benzeneacetic acid, ethyl ester | 220 mg | C(CCCCCCC)OC1=C(C=C(C=C1)C(C1=CC(=CC=C1)C(=O)OCC)=O)CC(=O)OCC | C28H36O6
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 5 ml | O | H2O
product | 2-(Octyloxy)-5-{[3-(ethoxycarbonyl)phenyl]hydroxymethyl}benzeneacetic acid, ethyl ester | 190 mg | C(CCCCCCC)OC1=C(C=C(C=C1)C(O)C1=CC(=CC=C1)C(=O)OCC)CC(=O)OCC | C28H38O6
